US07932400B2
In a 200 ml glass vessel equipped with a stirrer, thermometer, a dropping funnel and a distillation unit were charged 60 g (0.41 mol) of 4,5-dihydroxy-1,3-dimethyl-2-imidazolidinone and 60 ml of water. And then, the mixture was reacted at 100° C. to 200° C. for 2 hours while removing water under normal pressure by distillation. The obtained residue was evaporated under reduced pressure (109 to 117° C./0.53 to 0.67 kPa) to obtain 41 g (Isolation yield; 78%) of 1,3-dimethylimidazolidin-2,4-dione as a pale yellow liquid.

reactant | 4,5-dihydroxy-1,3-dimethyl-2-imidazolidinone | 0.41 mol, 60 g | OC1N(C(N(C1O)C)=O)C | C5H10N2O3
solvent | water | 60 ml | O | H2O
product | 1,3-dimethylimidazolidin-2,4-dione | 41 g, yield; 78% | CN1C(N(C(C1)=O)C)=O | C5H8N2O2
